US20010020034A1
To a solution of tert-butyl-(2,3-difluoro-4-methyl-benzyloxy)-dimethyl-silane (6.5 g, 24 mmol) in THF (24 mL) was added tetrabutylammonium fluoride (24 mL of a 1M solution in THF, 24 mmol). After stirring at ambient temperature for 1 hour, the mixture was poured into water, acidified with 1M aqueous HCl, extracted 3× with ethyl acetate, and the combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography (10:1 to 2:1 hexane-ethyl acetate), affording (2,3-Difluoro-4-methyl-phenyl)-methanol as a light yellow oil.

reactant | tert-butyl-(2,3-difluoro-4-methyl-benzyloxy)-dimethyl-silane | 24 mmol, 6.5 g | C(C)(C)(C)[Si](C)(C)OCC1=C(C(=C(C=C1)C)F)F | C14H22F2OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
reactant | HCl | 1M | Cl | ClH
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | (2,3-Difluoro-4-methyl-phenyl)-methanol | FC1=C(C=CC(=C1F)C)CO | C8H8F2O
